US07531542B2
2-(4-tert-Butyl-phenyl)-4-piperazin-1-yl-benzooxazole:
4-[2-(4-tert-butyl-phenyl)-benzooxazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (900 mg, 2.07 mmol) was stirred in a solution of concentrated trifluoroacetic acid (20 mL) and methylene chloride (20 mL) under N2 at room temperature for 5 h. The solvent was removed in vacuo and the oil was transferred to a separatory funnel with ethyl acetate (150 mL) and washed with 1M aqueous potassium carbonate solution (100 mL×2). The aqueous washings were combined and extracted with ethyl acetate (150 mL). The organic extracts were combined and washed with brine (100 mL), dried (Na2SO4), filtered and the filtrate concentrated to give a clear oil which was concentrated in vacuo with hexane several times to give a waxy material which was placed on a drying pistol overnight to afford the product as an amber colored wax (550 mg, 79%). Mass Spectrum (+ESI): 336 [M+H]+.

reactant | 4-[2-(4-tert-butyl-phenyl)-benzooxazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 2.07 mmol, 900 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC2=C1N=C(O2)C2=CC=C(C=C2)C(C)(C)C | C26H33N3O3
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-tert-Butyl-phenyl)-4-piperazin-1-yl-benzooxazole | C(C)(C)(C)C1=CC=C(C=C1)C=1OC2=C(N1)C(=CC=C2)N2CCNCC2 | C21H25N3O
